US09278931B2
B) ethyl trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylate
To a solution of N-(4-bromo-2-methylphenyl)benzamide(4.35 g) and 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (2.54 g) in THF (64.3 mL)/water (10.7 mL) were added 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride-dichloromethane complex (0.367 g) and triethylamine (4.18 mL). The reaction mixture was stirred at 60° C. overnight, and poured into saturated aqueous ammonium chloride solution. The reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give a mixture (4.42 g) containing N-(2-methyl-4-vinylphenyl)benzamide. To a solution of the mixture (4.42 g) and copper(I) chloride (0.233 g) in toluene (36 mL)/THF (5 mL) was added dropwise a solution of ethyl diazoacetate (9.79 mL) in toluene (25 mL) at 80° C. over 1 hr or longer. The mixture was stirred at 80° C. overnight, cooled to room temperature, and filtered through celite. The mother liquor was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.29 g).

reactant | N-(2-methyl-4-vinylphenyl)benzamide | CC1=C(C=CC(=C1)C=C)NC(C1=CC=CC=C1)=O | C16H15NO
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | ethyl diazoacetate | 9.79 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) chloride | 0.233 g | [Cu]Cl
product | ethyl trans-2-[4-(benzoylamino)-3-methylphenyl]cyclopropanecarboxylate | 1.29 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC)C | C20H21NO3
